US08859566B2
A mixture of 5,6-diamino-3-propyl-1H-pyrimidine-2,4-dione (2.0 g, 11.0 mmol), 6-Chloro nicotinic acid (1.86 g, 11.8 mmol) in methanol (40 ml) were cooled to 0° C. and added EDCI.HCl (4.2 g, 22 mmol). The reaction mixture was stirred at 25° C. for 20 hours and the solvents were removed under reduced pressure. To this residue water (20 ml) was added and the precipitate was filtered off, and washed sequentially with cold water (20 ml) and methanol (5 ml) to obtain N-(6-Amino-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-6-chloro-nicotinamide as an off white solid. (2.47 g, 70%).

reactant | 5,6-diamino-3-propyl-1H-pyrimidine-2,4-dione | 11.0 mmol, 2.0 g | NC=1C(N(C(NC1N)=O)CCC)=O | C7H12N4O2
reactant | 6-Chloro nicotinic acid | 11.8 mmol, 1.86 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | EDCI.HCl | 22 mmol, 4.2 g | CCN=C=NCCCN(C)C.Cl
solvent | methanol | 40 ml | CO | CH4O
product | N-(6-Amino-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-6-chloro-nicotinamide | NC1=C(C(N(C(N1)=O)CCC)=O)NC(C1=CN=C(C=C1)Cl)=O | C13H14ClN5O3
